US07456200B2
3,5-Dichloro-benzoic acid (382 mg, 2 mmol) was mixed with triethylamine (606 mg, 3 mmol) in THF (6 ml) at 10° C. Then isobutyl chloroformate (300 mg, 2.2 mmol) was added dropwise and stirred for 45 min. To the reaction mixture, 4-methyl-3-thiosemicarbazide (238.4 mg, 2 mmol) was added. After being stirred at room temperature for 10 min, the reaction mixture was heated to 70° C. overnight. Standard work-up. The product was purified by column chromatography with 25˜30% ethyl acetate in hexanes to give 46.4 mg (8.5%) of 5-(3,5-dichloro-phenyl)-4-ethyl-4H-[1,2,4]triazole-3-thiol.

reactant | 3,5-Dichloro-benzoic acid | 2 mmol, 382 mg | ClC=1C=C(C(=O)O)C=C(C1)Cl | C7H4Cl2O2
reactant | triethylamine | 3 mmol, 606 mg | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 2.2 mmol, 300 mg | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 4-methyl-3-thiosemicarbazide | 2 mmol, 238.4 mg | CNC(NN)=S | C2H7N3S
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | 5-(3,5-dichloro-phenyl)-4-ethyl-4H-[1,2,4]triazole-3-thiol | 46.4 mg, 8.5% | ClC=1C=C(C=C(C1)Cl)C=1N(C(=NN1)S)CC | C10H9Cl2N3S
